US06960598B2
a) 1-(5-Chloro-[1,8]naphthyridin-2-yl)ethanone
A stirred solution of 2,5-dichloro-[1,8]naphthyridine (Barlin, G. B.; Tan, W.-L. Aust. J. Chem. 1984, 37, 1065) (0.1001 g, 0.503 mmol) in 1,4-dioxane (5 mL) was degassed by bubbling nitrogen through for 15 min. Tetrakis-(triphenylphosphine)palladium(0) (30.0 mg, 0.0259 mmol) and tributyl(1-ethoxyvinyl)tin (0.170 mL, 0.503 mmol) was added and the mixture was heated at 80° C. for 17 h under nitrogen. The mixture was diluted with ethyl acetate (20 mL) and shaken with 2 N aqueous HCl (15 mL) for 1 min. The mixture was adjusted to pH 6 with 4 N aqueous NaOH and the organic layer was separated. The aqueous layer was further extracted with ethyl acetate (2×15 mL), and the combined organic extracts were dried (MgSO4) and evaporated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 15% EtOAc/CH2Cl2, followed by a further column on silica gel eluting with 50% EtOAc/isohexane, to afford 34.9 mg (34%) of the title compound as a white solid. δH (360 MHz, CDCl3) 2.95 (3H, s), 7.68 (1H, d, J 4.6), 8.33 (1H, d, J 8.4), 8.76 (1H, d, J 8.8), 9.12 (1H, d, J 4.9).

reactant | 2,5-dichloro-[1,8]naphthyridine | 0.503 mmol, 0.1001 g | ClC1=NC2=NC=CC(=C2C=C1)Cl | C8H4Cl2N2
reactant | tributyl(1-ethoxyvinyl)tin | 0.503 mmol, 0.170 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | HCl | 2 N, 15 mL | Cl | ClH
reactant | NaOH | 4 N | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5-Chloro-[1,8]naphthyridin-2-yl)ethanone | 34.9 mg, 34% | ClC1=C2C=CC(=NC2=NC=C1)C(C)=O | C10H7ClN2O
